US04895860
Step (4) Preparation of 7-Chloro-3-benzofuranylacetonitrile
To a stirred suspension of NaH 50% dispersion in mineral oil, washed with hexane; 1.82 g, 0.0378 mol) in THF (70 mL) was added a solution of diethyl cyanomethylphosphonate (6.7 g, 0.0378 mol) in THF (30 mL) dropwise over 20 minutes. After 20 minutes, the mixture was cooled to 0° C. and a solution of 7-chlorobenzofuran-3-one (5.8 g, 0.0344 mol) in THF (80 mL) was added dropwise over 30 minutes. The cooling bath was removed and stirring was continued at room temperature overnight. H2O (400 mL) and ether were added. The organic phase was washed with saturated aqueous NaCl, dried (MgSO4), and concentrated to give a red solid (6.4 g, 97%).

reactant | NaH | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 0.0378 mol, 6.7 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 7-chlorobenzofuran-3-one | 0.0344 mol, 5.8 g | ClC1=CC=CC=2C(COC21)=O | C8H5ClO2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 7-Chloro-3-benzofuranylacetonitrile | 6.4 g, 97% | ClC1=CC=CC=2C(=COC21)CC#N | C10H6ClNO
